* C:\eee1\Asynth\Anasynser\Pure_PWL_input.asc
V1 N002 0 PULSE(0 5 1 0 0 1)
R1 N003 0 610
R2 N004 0 610
C1 0 N004 1µ
C2 N004 0 1µ
M1 N001 N002 N003 N003 STW11NM80
V2 N001 0 10
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\68791\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5s
.backanno
.end
