* C:\eee1\Asynth\Anasynser\Pure_PWL_input.asc
V1 Vin 0 PULSE(0 5 1 0 0 1)
R1 V261 P001 610
M1 N001 Vin V261 V261 Si7540DP_N
V2 N001 0 5
R2 F261 0 610
C2 F261 0 1µ
C1 P001 F261 1µ
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\68791\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 10s
.backanno
.end
